US05780642
A mixture of N-{1-[4-(cyanomethyl)phenyl]-1-methylethyl}acrylamide (20.5 g), imidazole (6.11 g), benzyltrimethylammonium hydroxide (74 mg) and 1,4-dioxane (300 ml) gave N-{1-[4-(cyanomethyl)phenyl]-1-methylethyl}-3-(imidazol-1-yl)propionamide as an oil.

reactant | N-{1-[4-(cyanomethyl)phenyl]-1-methylethyl}acrylamide | 20.5 g | C(#N)CC1=CC=C(C=C1)C(C)(C)NC(C=C)=O | C14H16N2O
reactant | imidazole | 6.11 g | N1C=NC=C1 | C3H4N2
reactant | benzyltrimethylammonium hydroxide | 74 mg | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | N-{1-[4-(cyanomethyl)phenyl]-1-methylethyl}-3-(imidazol-1-yl)propionamide | C(#N)CC1=CC=C(C=C1)C(C)(C)NC(CCN1C=NC=C1)=O | C17H20N4O
